US06387938B1
Synthesis of ethyl 3-(6-methoxy-2-(2-phenylethyl)benzimidazol-4-yl)-3-oxopropanoate
Triethylamine (1.3 mL) and magnesium chloride (1.06 g) were added to anhydrous acetonitrile (15 mL) suspension of potassium ethylmalonate (1.58 g), and the mixture was vigorously stirred at room temperature for 18 hours under an atmosphere of argon. Next, a catalytically effective amount of N,N-dimethylaminopyridine and N,N-carbonyldiimidazole (663 mg) were added to anhydrous tetrahydrofuran (12 mL) suspension of 6-methoxy-2-(2-phenylethyl)benzimidazole-4-carboxylic acid (1.1 g) obtained in Reference Example 21, and the mixture was stirred for 2 hours under an atmosphere of argon. The reaction solution was added to the previously prepared suspension of ethyl malonate magnesium salt while cooling in an ice bath, and the mixture was stirred at room temperature for 2 hours. While cooling in an ice bath, this was diluted with water and adjusted to pH 1 with 4 N hydrochloric acid. At the same temperature, this was adjusted to pH 7 to 8 with saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) and the desired fraction was concentrated to obtain the title compound as crystal (620 mg).

reactant | magnesium chloride | 1.06 g | [Cl-].[Mg+2].[Cl-]
reactant | potassium ethylmalonate | 1.58 g | C(C)C(C(=O)[O-])C(=O)[O-].[K+].[K+]
reactant | N,N-carbonyldiimidazole | 663 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 6-methoxy-2-(2-phenylethyl)benzimidazole-4-carboxylic acid | 1.1 g | COC=1C=C(C2=C(N=C(N2)CCC2=CC=CC=C2)C1)C(=O)O | C17H16N2O3
reactant | ethyl malonate magnesium salt | [Mg+2].C(CC(=O)[O-])(=O)OCC.C(C)OC(CC(=O)[O-])=O
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | Triethylamine | 1.3 mL | C(C)N(CC)CC | C6H15N
product | ethyl 3-(6-methoxy-2-(2-phenylethyl)benzimidazol-4-yl)-3-oxopropanoate | 620 mg | COC=1C=C(C2=C(N=C(N2)CCC2=CC=CC=C2)C1)C(CC(=O)OCC)=O | C21H22N2O4
